US07825150B2
6.5. Synthesis of (1R,2S,3R)-1-(2-(1-hydrazonoethyl)-1H-imidazol-4-yl)butane-1,2,3,4-tetraol
1-[4-((1R,2S,3R)-1,2,3,4-Tetrahydroxy-butyl)-1H-imidazol-2-yl]-ethanone (THI, prepared according to Halweg, K. M. and Büchi, G., J. Org. Chem. 50:1134-1136 (1985)) (148 mg, 0.64 mmol) was suspended in methanol (3 ml) and water (1 ml). Hydrazine hydrate (35 mg, 0.7 mmol, 1.2 eq.) and acetic acid (one drop) were added, and the suspension was stirred at 50° C. for 6 hours. LCMS analysis indicated the formation of the product and the absence of starting material. The reaction mixture was cooled to room temperature and diluted with tetrahydrofuran. The resulting white precipitate was collected and washed with tetrahydrofuran to yield the product, a mixture of approximately 3:1 E:Z isomers, as a white solid: 90 mg (58%).

reactant | 1-[4-((1R,2S,3R)-1,2,3,4-Tetrahydroxy-butyl)-1H-imidazol-2-yl]-ethanone | 0.64 mmol, 148 mg | O[C@@H]([C@@H]([C@@H](CO)O)O)C=1N=C(NC1)C(C)=O | C9H14N2O5
reactant | Hydrazine hydrate | 0.7 mmol, 35 mg, 1.2 eq. | O.NN
solvent | methanol | 3 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
catalyst | acetic acid | one drop | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (1R,2S,3R)-1-(2-(1-hydrazonoethyl)-1H-imidazol-4-yl)butane-1,2,3,4-tetraol | N(N)=C(C)C=1NC=C(N1)[C@H]([C@@H]([C@@H](CO)O)O)O | C9H16N4O4
